US08609688B2
To a solution of 2,6-dichloro-3-nitropyridine (54 g) in THF (1200 mL), were added ethyl diisopropylamine (1.05 eq.) and tert-butyl[1-(4-aminophenyl)cyclobutyl]carbamate (74 g) at −14° C. and the mixture was warmed up to 25° C. The mixture was stirred for 24 h and diluted with ethyl acetate (1 L) and water (750 mL). The separated organic phase was washed with brine and dried over anhydrous Na2SO4. The solvent was removed and the residue was solidified with ethyl acetate/hexane (1:1) to give tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate (89 g).

reactant | 2,6-dichloro-3-nitropyridine | 54 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | ethyl diisopropylamine | 1.05 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-butyl[1-(4-aminophenyl)cyclobutyl]carbamate | 74 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)N)=O | C15H22N2O2
solvent | THF | 1200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | water | 750 mL | O | H2O
product | tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate | 89 g | ClC1=CC=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C20H23ClN4O4
